US09212430B1
At step 3, the deprotected electrodes 53 were reblocked with a MPMP-diol reprotection unit 54. For this example, 2-(4-methoxyphenyl)ethyl acetate was allowed to react with excess methylmagnesium bromide in tetrahydrofuran (THF) to provide after aqueous workup 1-(4-methoxyphenyl)-2-methylpropan-2-ol. This was brominated with NBS in carbon tetrachloride at reflux for 12 hours. Hydroylsis of the resulting 1-bromo-1-(4-methoxyphenyl)-2-methylpropan-2-ol was performed with freshly prepared silver carbonate in aqueous acetone. The resulting 1-(4-methoxy-phenyl)-2-methyl-propane-1,2-diol (MPMP-diol) was identical spectroscopically with that reported in the literature. See J. Yan et al., Tetrahed. Lett. 46, 8503 (2005). The unblocked electrode was then treated with 100 μl of 10 mM MPMP-diol reprotection unit in anhydrous toluene for 30 min to provide the reprotected electrode 55. The reprotected electrodes 55 comprised para-methoxybenzyl groups 56 that provide a protecting group that can be removed through oxidation. The MPMP-diol protecting group has been previously used to protect borate esters. See J. Yan et al., Tetrahed. Lett. 46, 8503 (2005).

reactant | MPMP-diol | COC1=CC=C(C=C1)C(C(C)(O)C)O | C11H16O3
reactant | 2-(4-methoxyphenyl)ethyl acetate | C(C)(=O)OCCC1=CC=C(C=C1)OC | C11H14O3
reactant | methylmagnesium bromide | C[Mg]Br
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-(4-methoxyphenyl)-2-methylpropan-2-ol | COC1=CC=C(C=C1)CC(C)(O)C | C11H16O2
